US07368578B2
To a mixture of ethyl {4-[4-({4-[({4-[(E)-2-(2-ethyl-1,3-oxazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate (360 mg), tetrahydrofuran (5 mL) and ethanol (5 mL) was added 1N aqueous sodium hydroxide solution (1.6 mL) and the mixture was stirred at 50° C. for 1 hr. 1N Hydrochloric acid was added to the reaction mixture for neutralization, and the mixture was extracted with ethyl acetate. The residue was recrystallized from ethyl acetate-hexane and the precipitated crystals were collected by filtration to give {4-[4-({4-[({4-[(E)-2-(2-ethyl-1,3-oxazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetic acid (196 mg, yield 37%) as colorless crystals. melting point: 117-119° C.

reactant | ethyl {4-[4-({4-[({4-[(E)-2-(2-ethyl-1,3-oxazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate | 360 mg | C(C)C=1OC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C39H38N4O7
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 1.6 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | {4-[4-({4-[({4-[(E)-2-(2-ethyl-1,3-oxazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetic acid | 196 mg, yield 37% | C(C)C=1OC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)O)C=C1)OC | C37H34N4O7
